US05066816
To a mixture of 94 g of (±)-trans-3-bromo-6-cyano-3,4-dihydro-2,2-dimethyl-4-hydroxy-2H-1-benzopyran, 800 ml of ethylene chloride and 32.4 ml of pyridine was added 66 g of (S)-(-)-3-acetylthio-2-methylpropionyl chloride under ice-cooling over 5 minutes and stirred for 1.5 hours under room temperature. The reaction mixture was washed with diluted hydrochloric acid once and 10% aqueous sodium chloride solution twice. The organic layer was separated, dried over magnesium sulfate and concentrated under reduced pressure to give 139.8 g of (±)-trans-3-bromo-6-cyano-3,4-dihydro-2,2-dimethyl-4-[(S)-(-)-3-acetylthio-2-methylpropionyloxy]-2H-1-benzopyran as a light yellow oily substance.

reactant | (±)-trans-3-bromo-6-cyano-3,4-dihydro-2,2-dimethyl-4-hydroxy-2H-1-benzopyran | 94 g | Br[C@@H]1C(OC2=C([C@H]1O)C=C(C=C2)C#N)(C)C | C12H12BrNO2
reactant | ethylene chloride | 800 ml | C(CCl)Cl | C2H4Cl2
reactant | (S)-(-)-3-acetylthio-2-methylpropionyl chloride | 66 g | C(C)(=O)SC[C@@H](C(=O)Cl)C | C6H9ClO2S
solvent | pyridine | 32.4 ml | N1=CC=CC=C1 | C5H5N
product | (±)-trans-3-bromo-6-cyano-3,4-dihydro-2,2-dimethyl-4-[(S)-(-)-3-acetylthio-2-methylpropionyloxy]-2H-1-benzopyran | 139.8 g | Br[C@@H]1C(OC2=C([C@H]1OC([C@@H](CSC(C)=O)C)=O)C=C(C=C2)C#N)(C)C | C18H20BrNO4S
